US04927565
16 mg of ethyl (4S,5S)-5-tert-butoxycarbonylamino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate was dissolved in 0.5 ml of dichloromethane, and 13 μl of boron trifluoride ethyl ether complex was added thereto as -78° C. under stirring. The mixture was stirred for 30 minutes at the same temperature. Then, 75 μl of a 1.5M isobutyl aluminum hydride toluene solution was added to the mixture and further stirred for 45 minutes. 60 μl of a 5M acetic acid dichloromethane solution was added thereto at -78° C., and the reaction solution was raised to room temperature. 10 ml of 10% citric acid aqueous solution was added thereto and extracted with ethyl acetate. The extract was washed sequentially with water and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 15 mg of (4S,5S)-5-tert-butoxycarbonylamino-1,4-dihydroxy- 2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octene as a colorless oily substance.

reactant | ethyl (4S,5S)-5-tert-butoxycarbonylamino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate | 16 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=C(C(=O)OCC)CCOC1OCCCC1)O)CC(C)C | C23H41NO7
reactant | isobutyl aluminum hydride toluene | 1.5M | C1(=CC=CC=C1)C.[H-].C(C(C)C)[Al+2].[H-]
reactant | acetic acid dichloromethane | 5M | ClCCl.C(C)(=O)O
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | (4S,5S)-5-tert-butoxycarbonylamino-1,4-dihydroxy- 2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octene | 15 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=C(CO)CCOC1OCCCC1)O)CC(C)C | C21H39NO6
